US04468516
A diglyme solution (3 ml) containing dl-thioxobiotin (255 mg, 0.981 mol) and bromoethanol (140 μl, 1.98 mmol) was allowed to reflux (150°) for 2.5 hours. The solution was cooled, dilute sodium carbonate (50 ml) was added, and the solution was extracted with hexane (50 ml). The pH of the aqueous phase was adjusted to 1.5 with 6N HCL and extracted with ethyl acetate (4×100 ml). The ethyl acetate extract was dried over magnesium sulfate, filtered and concentrated in vacuo to give 148 mg (62%) of crude biotin, mp 220°-223° C. which was recrystallized from water IR (KBr) 3279, 2899, 1724; NMR (d, DMSO) 0.76-1.95 (6H, m, C--CH2), 2.00-2.40 (2H, t, CH2 --CO), 2.70-2.98 (1H, m, CH2S) 3.00-3.54 (2H, m, CH2S, CHS) 4.00-4.44 (2H, m, CHN), 6.44 (1H, bs, NH), 6.55 (1H, bs, NH), 11.8-12.4 (1H, bs, OH). Analysis calculated for C10H16O3N2S: C, 49.18; H, 6.56; N, 11.48; Found: C, 49.30; H, 6.23; N, 11.37. Mass spectrum: calculated: 244.0880, found: 244.0925.

reactant | thioxobiotin | 0.981 mol, 255 mg | S=C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H14N2O3S2
reactant | bromoethanol | 1.98 mmol, 140 μl | BrC(C)O | C2H5BrO
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | diglyme | 3 ml | COCCOCCOC | C6H14O3
product | biotin | 148 mg, 62% | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
